Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I came because I was suffering pain in my head and thought it 
may be neurologic." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ initial 
consultation note dated ___ and Dr. ___ 
admission note dated ___. 
.
Briefly, this is a ___ year old single AA man, previously 
diagnosed with BPAD, type I with psychotic features vs. 
schizoaffective disorder, cannabis use disorder, s/p numerous 
psychiatric hospitalizations, currently a ___ client, who 
initially presented to ___ ED via EMS complaining of a sore 
throat and a headache. Consultation-liason team was initially 
requested to see the patient due to concerns for bizarre 
behaviors and agitation. 
. 
Upon initial interview with Dr. ___ and Dr. ___ 
___, patient reported that after eating breakfast he began 
to feel something in his throat and had difficulty swallowing. 
While at his mother's home, the patient became distressed and 
dialed ___  to be brought to the ED. While speaking about this 
discomfort, the patient was noted to gesture and pull at the 
left side of his
neck with his right hand, at times coughing and attempting to 
bring something up from the back of his throat. Patient was 
noted to be speaking quickly. Denied SI/HI, AVH and symptoms of 
anxiety and depression on examination. 
. 
ED Course: patient noted to be acting bizarrely, roaming in the 
ED and was difficult to redirect. Noted to be self dialoguing 
with delusions that the food he had had for breakfast on ___ 
may have been poisoned. Noted to be perseverative bout something 
being "embedded in my head." noted to be loud, disrupted and 
agitated, and required chemical restraint with Haldol 5 
mg/Ativan
2 mg/Cogentin 1 mg. 
. 
On admission interview with Dr. ___, patient reported a 
10 pound weight loss over the past several weeks from fasting, 
stating he was fasting for religious reasons when he is going 
through tough times. Patient was evasive when asked what he was 
struggling with, stating he is fasting "because the winter 
season is cold" and because "when you don't eat food, you're 
feeding your soul." He then went on to describe that he was 
fasting because his grandmother passed away one week ago and he 
has been struggling with mourning. 
. 
On my interview with Mr. ___, who was an a reluctant and 
unreliable historian, he stated he came to the ED "because I was 
suffering pain in my head and it may have been neurologic." 
Confirmed that on the day of presentation, he "ate something 
that made my throat hurt." He went on to state he had had a 
headache for the past week but could not describe the pain, "It 
was all
types of ways... so I came to ___, got treated and it's 
better." When asked how he thought he ended up on a psychiatric 
unit, he stated, "honestly, I don't understand how, I was 
panicking over the pain and they saw me as a psychiatric 
patient; it's dehumanizing." Denied he was suffering from 
psychiatric illness, stating that doctors "have a way of viewing 
things, but I know what's best for me." 
. 
Patient reported that he lives in ___ and spends his time 
between his parents houses, who are currently separated. 
Reported that he spends his days going to work, stating he works 
for a ___ organization and does telemarketing 5 
days a week. Reported he also spends his time hanging out with 
his friends, making music and art, and "sometimes I smoke weed," 
but stated he recently cut back because "I needed to." 
. 
Patient essentially denied all psychiatric symptoms, stating he 
is not depressed, has been sleeping "okay" with good energy, 
"okay" concentration. Denied SI/HI. Denied psychotic symptoms 
including AVH, thought insertion and broadcasting, ideas of 
reference. Denied symptoms of anxiety. Reported good appetite. 
Denied other drug use other than cannabis, and stated he had cut
back recently. Reports he does not wish to be here. 
. 
With the patient's permission, we contacted his father, 
___ at ___, who was a very limited 
historian and refused to discuss what had been going on with the 
patient other than stating he did not have a mental illness. 

 
Past Medical History:
Past psychiatric history: Per OMR 
- Diagnoses: schizoaffective disorder, BPAD, type I with
psychotic features with documented history of mania per OMR 
- SA/SIB: denies/denies 
- Hospitalizations: Numerous psychiatric hospitalizations with
first at age ___ years of age. Has had numerous hospitalizations
at ___. Per OMR: Hospitalized on
___ ___: Pt described as irritable,
not sleeping, ransacked his house, 'out of control' in ER
requiring restraint. Several restraints on unit, tried to
strangle himself with headphone cord, suicidal and homicidal
ideation. Treated with haldol 5 bid, tegretol 400 bid, thorazine
prn. Transferred to ___ on ___. Hospitalized on ___ ___:  Agitated and bizarre behavior,
yelling at mother, threatening to staff. Grandiose and paranoid,
sexually disinhibited, poor impulse control. Discharged on 
haldol
decanoate 100 mg q4wk, haldol 10 mg bid, valproate 500 bid,
lorazepam 2 mg bid.
- Medication Trials: Olanzapine, Haldol, risperidone, Tegretol,
Geodon, Prolixin 
- Psychiatrist: none 
- Therapist: none
- D___: patient reports he is a ___ client and that ___ 
___
is his case worker. 
- Harm to others: Per review of ___ Police records (available
to the public), has a history of assault and battery from ___ 

Past medical history:
Patient denies any active medical conditions 
 
Social History:
Substance use history:
- Alcohol: patient denies
- Illicits: see HPI, patient reports he has been smoking 
cannabis "for a while," but reported his last use was 1.5 weeks 
ago. Reported he was smoking twice a day on my examination, 
reported in ED that hew as smoking every other day
- Tobacco: Denies 
. 
Personal and Social History: ___
Family History:
Family psychiatric history:
- Diagnoses: denies 
- SA/SIB: denies/denies
- Addictions: denies 
 
Physical Exam:
T 98.2 PO, BP 136/72, HR 84, RR 16, SpO2 98% on RA

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.

Cognition  
-Wakefulness/alertness: Awake and alert
-Orientation: Oriented to person, time, place, situation
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
-Patient refused to engage in the remainder of the cognitive
exam, appearing suspicious/paranoid and saying that "I'm good, I
don't need to answer these questions".

Mental Status:
-Appearance: young ___ man, appearing stated age,
well groomed, with average length curly hair and short
beard/mustache, wearing black T-shirt and black shorts, in no
apparent distress
-Behavior: Sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Calm and cooperative, but appears suspicious/paranoid
after certain questions are asked, staring for extended periods
of time and requiring question repetition; somewhat anxious when
talking about wanting to prove that he is sane. He appeared very
paranoid when asked to have vital signs checked and blood drawn
for cholesterol panel.
-Mood: "humble, grateful"
-Affect: Euthymic, mood congruent, full range, appropriate to
situation; becomes irritable when being asked about psychiatric
symptoms and when asked about past psychiatric hospitalizations.
-Speech: Normal rate, volume, and tone; becomes more pressured
and louder when discussing his spirituality and his goal to 
prove
that he is sane
-Thought process: circumstantial, and evasive, with looseness of
associations; also had 4 instances of thought blocking
-Thought Content: answers most questions by talking about his
spirituality and his relationship with God
---Safety: Denies SI/HI
---Delusions: Ongoing somatic delusions (wanting to make sure he
is healthy) and paranoia about having staff check his vital 
signs
or draw blood 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, but appears to be responding to
internal stimuli at times
-Insight: Poor
-Judgment: Poor

Discharge Examination: 
Patient refused vital signs 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, adequate eye 
contact, no psychomotor agitation or retardation noted
S: normal rate, volume, slightly flattened prosody 
M: "good" 
A: superficially euthymic, slightly blunted, appropriate
TC: denies SI/HI, AVH
TP: concrete, slightly disorganized, goal and future oriented
C: awake, alert, responds to questions appropriately
I/J: limited/limited 
 
Pertinent Results:
___ 10:15AM BLOOD WBC: 7.6 RBC: 5.03 Hgb: 14.1 Hct: 42.0
MCV: 84 MCH: 28.0 MCHC: 33.6 RDW: 13.8 RDWSD: 41.___
___ 10:15AM BLOOD Neuts: 68.3 Lymphs: ___ Monos: 8.6 Eos:
0.4* Baso: 1.0 Im ___: 0.5 AbsNeut: 5.21 AbsLymp: 1.62 AbsMono:
0.66 AbsEos: 0.03* AbsBaso: 0.08 
___ 10:15AM BLOOD Glucose: 78 UreaN: 20 Creat: 1.1 Na: 142
K: 4.2 Cl: 101 HCO3: 25 AnGap: 16 
___ 10:15AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Bnzodzp: NEG Barbitr: NEG Tricycl: NEG 
___ 10:15AM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 
___ 10:15AM URINE Blood: NEG Nitrite: NEG Protein: 30*
Glucose: NEG Ketone: 40* Bilirub: SM* Urobiln: 2* pH: 6.0 Leuks:
NEG 
___ 10:15AM URINE RBC: 3* WBC: 2 Bacteri: FEW* Yeast: NONE
Epi: 0 
___ 10:15AM URINE CT: NEG;  NG: NEG
___ 10:15AM URINE CULTURE (Final ___: NO GROWTH. 

 
Brief Hospital Course:
This is a ___ year old single AA man, previously diagnosed with 
BPAD, type I with psychotic features vs. schizoaffective 
disorder, cannabis use disorder, s/p numerous
psychiatric hospitalizations, currently a ___ client, who 
initially presented to ___ ED via EMS complaining of a sore 
throat and a headache, who was subsequently admitted to 
___ on a ___ due to concerns for decompensated 
psychosis
with periods of agitation, paranoia, somatic delusions in the 
setting of medication noncompliance. 
. 
Interview with Mr. ___ was limited, and he essentially denied 
all psychotic symptoms. However, review of the medical record 
reveals a longstanding history of severe mental illness with his 
first psychiatric hospitalization at age ___ and numerous 
subsequent hospitalizations for mania and psychosis. Mental 
status on my examination is notable for a young man with 
adequate hygiene and grooming, who appears paranoid at times but 
with adequate eye contact, flattened prosody of speech,
"fine" mood, with blunted affect and somewhat disorganized 
thought process, limited insight and judgment. Cognitive 
examination is notable for concrete thought process. Discharge 
mental status exam is unchanged. 
. 
Diagnostically, differential diagnosis includes schizophrenia 
with affective features vs. BPAD with persistent cognitive 
deficits. Of note, it seems clear that his ongoing cannabis use 
is contributing to his current presentation, although I'm not 
clear how much or how often Mr. ___ is using marijuana. 
Regardless of diagnosis, given concerns for his ability to care 
for self, he met ___ criteria for inpatient admission for 
evaluation of medications, discharge and safety planning. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___,
upon admission, he declined to sign a conditional voluntary form 
until the expiration of his 3 day notice on ___. Of note, 
he maintained his safety throughout his psychiatric 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 
.
#. Psychosis: as noted above with history of mania concerning 
for bipolar disorder vs. schizoaffective disorder. 
- Patient was compliant in attending groups, and although he was 
somewhat irritable at times on the unit, he maintained adequate 
behavioral control during his admission 
- Patient declined medical workup including EKG and metabolic 
workup, LFT's 
- We discussed the risks and benefits of antipsychotic 
medication, including Zyprexa, which he consistently declined 
throughout his hospitalization.
- Collateral was obtained from his mother and father, who stated 
that Mr. ___ had been off his medications for a number of 
months now but without unsafe behaviors; however, they did note 
he had appeared more stressed following the knowledge that his 
grandfather had passed away in ___. The parents had no 
safety concerns with the patient being discharged.
- The patient was amenable to having his ___ caseworker, ___ 
___ meet with him on the unit and Mr. ___ agreed to 
follow up with Mr. ___ following discharge. 
- Of note, a considerable amount of time was spent during this 
hospitalization discussing the risks and benefits of 
antipsychotic medications, and I was clear with Mr. ___ that 
I believed he could benefit strongly from medication. He stated 
he would continue to think about it and seemed amenable to 
following up with an outpatient psychiatrist and therapist once 
discharged. He consistently denied suicidal ideation, thoughts 
of self harm, HI, thoughts of wanting to harm others during his 
hospitalization and appeared to be able to care for himself 
without difficulty with good hygiene and grooming. Therefore, 
given his strong preference to be discharged, he was discharged 
shortly after the expiration of his ___. Of note, he was 
amenable to signing a CV form, as we discussed that another day 
was needed in order to set up appropriate follow up. 
. 
#. Cannabis use disorder: discussed the pros and cons of 
marijuana use and
encouraged abstinence. Encouraged patient to participate in 
AA/NA, and he was in agreement with continuing to not use 
cannabis. 
.
#. Headaches: as noted in HPI. 
- Patient was continued on Motrin and Tylenol and strongly 
advised not to take excessive amounts of these pain killers due 
to the risk of damage to his liver and kidneys. 

 
Medications on Admission:
None
 
Discharge Medications:
None, patient declined 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPAD type I with psychotic features vs schizoaffective disorder 
Cannabis use disorder 

 
Discharge Condition:
Patient refused vital signs during his hospitalization. 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___